datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=S(=O)(Cc1ccccc1)c1ncc[n-:10]1.c1ccc(-c2nnn[n:21]2[H:20])cc1>>O=S(=O)(Cc1ccccc1)c1ncc[n:10]1[H:20].c1ccc(-c2nnn[n-:21]2)cc1 10=20;20,21=21",
"C[N:10]1[C@H]2CC[C@@H]1[C@H](C(=O)[O-])[C@H](O)C2.N[NH+:21](CCO)[H:20]>>C[N+:10]1([H:20])[C@H]2CC[C@@H]1[C@H](C(=O)[O-])[C@H](O)C2.N[NH:21]CCO 10=20;20,21=21",
"Cc1cccnc1/C=N/[O-:10].[O-][n+]1cnc(NCc2ccccc2)c2c1[nH]c[n+:21]2[H:20]>>Cc1cccnc1/C=N/[O:10][H:20].[O-][n+]1cnc(NCc2ccccc2)c2c1[nH]c[n:21]2 10=20;20,21=21",
"CCc1nc(CC)[n-:10]n1.CNc1nc(SC)[n+:21]([H:20])c2[nH]ncc12>>CCc1nc(CC)[n:10]([H:20])n1.CNc1nc(SC)[n:21]c2[nH]ncc12 10=20;20,21=21",
"CC(=O)Nc1ccc([NH2+:21][H:20])cc1.C[C@H]([C@H](O)c1ccccc1)[NH:10]C>>CC(=O)Nc1ccc([NH2:21])cc1.C[C@H]([C@H](O)c1ccccc1)[NH+:10](C)[H:20] 10=20;20,21=21",
"C1CCC(C2=[N:10]CCC2)CC1.O=C(/C=C/c1ccoc1)[O:21][H:20]>>C1CCC(C2=[N+:10]([H:20])CCC2)CC1.O=C(/C=C/c1ccoc1)[O-:21] 10=20;20,21=21",
"COc1ccccc1/C(=N/CCC[N+:21](C)(C)[H:20])c1ccccc1.NCc1cccc(S(=O)(=O)[NH-:10])c1>>COc1ccccc1/C(=N/CCC[N:21](C)C)c1ccccc1.NCc1cccc(S(=O)(=O)[NH:10][H:20])c1 10=20;20,21=21",
"Cn1c[n+:21]([H:20])c2cncnc21.Nc1scc[n:10]1>>Cn1c[n:21]c2cncnc21.Nc1scc[n+:10]1[H:20] 10=20;20,21=21",
"CC(=O)N=C1SC(S(=O)(=O)[NH-:10])=NN1C.CN(C)C=[N+:21](c1cccc([N+](=O)[O-])c1)[H:20]>>CC(=O)N=C1SC(S(=O)(=O)[NH:10][H:20])=NN1C.CN(C)C=[N:21]c1cccc([N+](=O)[O-])c1 10=20;20,21=21",
"C1CC[NH+](CC[N+:21]2([H:20])CCCCC2)CC1.CC[NH+](CC)CCCCCCCC(C)Nc1c2cc(OC)ccc2[n:10]c2cc(Cl)ccc12>>C1CC[NH+](CC[N:21]2CCCCC2)CC1.CC[NH+](CC)CCCCCCCC(C)Nc1c2cc(OC)ccc2[n+:10]([H:20])c2cc(Cl)ccc12 10=20;20,21=21",
"COC(=O)c1ccc([N-:10]C=S)cc1.O=C(c1cccnn1)[O:21][H:20]>>COC(=O)c1ccc([N:10](C=S)[H:20])cc1.O=C(c1cccnn1)[O-:21] 10=20;20,21=21",
"Nc1nc[nH+]c(O)c1[NH2+:21][H:20].[S-]c1nc([S-:10])c2[nH]cnc2n1>>Nc1nc[nH+]c(O)c1[NH2:21].[S-]c1nc([S:10][H:20])c2[nH]cnc2n1 10=20;20,21=21",
"CC(=O)n1cc[n+:21]([H:20])c1Cc1[nH]cc[nH+]1.CCOc1nccc([O-])[n:10]1>>CC(=O)n1cc[n:21]c1Cc1[nH]cc[nH+]1.CCOc1nccc([O-])[n+:10]1[H:20] 10=20;20,21=21",
"Oc1ccc([O:21][H:20])c(Cl)c1.c1ccc([NH:10]C2CCCC2)cc1>>Oc1ccc([O-:21])c(Cl)c1.c1ccc([NH+:10](C2CCCC2)[H:20])cc1 10=20;20,21=21",
"Cn1c(CBr)[n+:21]([H:20])c2c(O)ccc(O)c21.O=C([O-])C[N:10](CC(=O)[O-])Cc1nc2ccccc2[nH]1>>Cn1c(CBr)[n:21]c2c(O)ccc(O)c21.O=C([O-])C[N+:10](CC(=O)[O-])(Cc1nc2ccccc2[nH]1)[H:20] 10=20;20,21=21",
"CC(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])=C1>>CC(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"CN(C)C1CC(C)(C)[NH:10]C(C)(C)C1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CN(C)C1CC(C)(C)[NH+:10]([H:20])C(C)(C)C1.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(C)c1csc(C(=O)[O:21][H:20])c1.O=C1C=C(S(=O)(=O)[O-])NC(=O)[N-:10]1>>CC(C)c1csc(C(=O)[O-:21])c1.O=C1C=C(S(=O)(=O)[O-])NC(=O)[N:10]1[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Cc1ccc(C(O)C[NH2:10])cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Cc1ccc(C(O)C[NH2+:10][H:20])cc1 10=20;20,21=21",
"COc1cc(C(N)=O)ccc1-c1nc2c(ncn2C)[n-:10]1.Cc1ccc(C[NH+:21](CC[NH3+])[H:20])cc1>>COc1cc(C(N)=O)ccc1-c1nc2c(ncn2C)[n:10]1[H:20].Cc1ccc(C[NH:21]CC[NH3+])cc1 10=20;20,21=21",
"Cc1cc(Br)cc(C)c1[NH2+:21][H:20].Cn1cnc2c1c([O-])[n:10]c([O-])[n+]2C>>Cc1cc(Br)cc(C)c1[NH2:21].Cn1cnc2c1c([O-])[n+:10]([H:20])c([O-])[n+]2C 10=20;20,21=21",
"CC(=O)c1ccc(C(=O)[O:21][H:20])cc1.Cc1nn(-c2ccccc2)cc1C(=O)[O-:10]>>CC(=O)c1ccc(C(=O)[O-:21])cc1.Cc1nn(-c2ccccc2)cc1C(=O)[O:10][H:20] 10=20;20,21=21",
"C#CC[NH:10]c1ccccc1.O=CC(=O)[O:21][H:20]>>C#CC[NH+:10](c1ccccc1)[H:20].O=CC(=O)[O-:21] 10=20;20,21=21",
"CC1(C)OC(=O)[N:21]([H:20])C1=O.CCCc1cc[n:10]c2c1ccc1cccnc12>>CC1(C)OC(=O)[N-:21]C1=O.CCCc1cc[n+:10]([H:20])c2c1ccc1cccnc12 10=20;20,21=21",
"CN1C(=O)c2c([O-])cn[n:10]c2N(C)C1=O.c1ncc2cc([O:21][H:20])ccc2n1>>CN1C(=O)c2c([O-])cn[n+:10]([H:20])c2N(C)C1=O.c1ncc2cc([O-:21])ccc2n1 10=20;20,21=21",
"CCCOC(=O)c1ccc([O:21][H:20])cc1.c1coc(-c2cc[n:10]cc2)c1>>CCCOC(=O)c1ccc([O-:21])cc1.c1coc(-c2cc[n+:10]([H:20])cc2)c1 10=20;20,21=21",
"C[Si](C)(C)CCCCC(=O)[O:21][H:20].Oc1ccc(F)cc1C[N:10]1CCOCC1>>C[Si](C)(C)CCCCC(=O)[O-:21].Oc1ccc(F)cc1C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"Cn1c[n+:21]([H:20])c2ncncc21.O=C(/C=C/c1ccc(O)cc1)[O-:10]>>Cn1c[n:21]c2ncncc21.O=C(/C=C/c1ccc(O)cc1)[O:10][H:20] 10=20;20,21=21",
"C1CNCCNCC[NH:10]C1.CCCCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:21][H:20]>>C1CNCCNCC[NH+:10]([H:20])C1.CCCCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:21] 10=20;20,21=21",
"CCC1(c2ccccc2)C(=O)NC(=S)[N-:10]C1=O.O=C(Cc1cccc[n+:21]1[H:20])c1ccccc1>>CCC1(c2ccccc2)C(=O)NC(=S)[N:10]([H:20])C1=O.O=C(Cc1cccc[n:21]1)c1ccccc1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].OC(CS)C[S-:10]>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].OC(CS)C[S:10][H:20] 10=20;20,21=21",
"C=CCOc1nc(N)nc(N)[n:10]1.O=C([O-])c1ccc([O:21][H:20])c2ncccc12>>C=CCOc1nc(N)nc(N)[n+:10]1[H:20].O=C([O-])c1ccc([O-:21])c2ncccc12 10=20;20,21=21",
